US08492405B2
To a solution of 2-methyl-1H-imidazole-4-carbaldehyde (5.50 g) in N,N-dimethylformamide (100 mL) was slowly added sodium hydride (60%, oily, 2.4 g) at 0° C., and the mixture was stirred at room temperature for 30 min. Benzylbromide (7.1 mL) was slowly added to the reaction mixture, and the mixture was stirred overnight at room temperature. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give 1-benzyl-2-methyl-1H-imidazole-4-carbaldehyde (3.8 g, yield 38%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). melting point 61° C.

reactant | 2-methyl-1H-imidazole-4-carbaldehyde | 5.50 g | CC=1NC=C(N1)C=O | C5H6N2O
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | Benzylbromide | 7.1 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1-benzyl-2-methyl-1H-imidazole-4-carbaldehyde | 3.8 g, yield 38% | C(C1=CC=CC=C1)N1C(=NC(=C1)C=O)C | C12H12N2O
